US06169087A
6-Aminocaproic acid (100 g, 0.76 mol) was suspended in a mixture of ethylformate and N,N-dimethylformamide (1 l, 1:1) and heated at 100° C. for 18 h. The volatiles were evaporated in vacuo and the residue treated with ethyl acetate. The solid matter was filtered off and washed with ethyl acetate and air dried which afforded 115 g (95%) of 6-formyl hexanoic acid.

reactant | 6-Aminocaproic acid | 0.76 mol, 100 g | NCCCCCC(=O)O | C6H13NO2
reactant | ethylformate | C(C)OC=O | C3H6O2
solvent | N,N-dimethylformamide | 1 l | CN(C=O)C | C3H7NO
product | 6-formyl hexanoic acid | 115 g, 95% | C(=O)CCCCCC(=O)O | C7H12O3
